US07897595B2
A mixture of 3-bromo-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H -pyrido[2,3-d]azepin-2-ol (30.0 mg, 85.0 μmol), Tf2O (50 μl), K2CO3 (18 mg) and DCM (1 ml) was stirred for 16 h at room temperature. The mixture was extracted with sat. aq. NaHCO3, dried over Na2SO4, concentrated in vacuo and purified by column chromatography to yield 11.0 mg (26%) of 3-bromo-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-yl trifluoromethanesulfonate. A mixture of methylamine (50 μl), 3-bromo-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-yl trifluoromethanesulfonate (11.0 mg, 22.7 μmol), and THF (1 ml) was heated to reflux for 15 h. The reaction mixture was parted between sat. aq. NaHCO3 and EtOAc. The organic layer was dried, concentrated in vacuo and purified with column chromatography to give 5.2 mg (62%) of 3-bromo-N,5-dimethyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-amine. MS (ESI) m/z 486.2 (M+H+). A mixture of 3-bromo-N,5-dimethyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-amine (5.2 mg, 14.2 μmol), K2CO3 (15 mg), MeOH (1 ml) and H2O (100 μl) was heated to reflux for 10 min. The reaction mixture was concentrated in vacuo and the resulting residue was purified by column chromatography to yield 2.1 mg (55%) of 3-bromo-N,5-dimethyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-amine. MS (ESI) m/z 271.2 (M+H+).

reactant | 3-bromo-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H -pyrido[2,3-d]azepin-2-ol | 85.0 μmol, 30.0 mg | BrC1=CC2=C(CCN(CC2C)C(C(F)(F)F)=O)N=C1O | C12H12BrF3N2O2
reactant | Tf2O | 50 μl | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | K2CO3 | 18 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | 3-bromo-5-methyl-7-(trifluoroacetyl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepin-2-yl trifluoromethanesulfonate | 11.0 mg, 26% | FC(S(=O)(=O)OC=1C(=CC2=C(CCN(CC2C)C(C(F)(F)F)=O)N1)Br)(F)F | C13H11BrF6N2O4S
